US09108969B2
Step B: Preparation 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-ethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
tert-Butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-ethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (6.6 mg, 0.012 mmol) was added to a solution of 2-amino-3-mercaptopropanoic acid (1.476 mg, 0.012 mmol) in TFA (1 mL). The reaction was stirred at 23° C. for 15 min in a 20 mL sealed scintillation vial. The mixture was poured into about 4 mL of ice water. The precipitate was collected by vacuum filtration through a glass fiber paper, washed with n-hexane (3×5 mL), and dried (vacuum oven) to give the title compound (0.8 mg) as a tan solid. LCMS m/z=486.3 [M+H]+; 1H NMR (400 MHz, CD3CN) δ ppm 1.09 (t, J=7.52 Hz, 3H), 1.48-1.59 (m, 2H), 1.60-1.69 (m, 2H), 1.74-1.82 (m, 2H), 1.93-2.00 (m, 2H), 2.17-2.27 (m, 1H), 2.39-2.49 (m, 1H), 2.55-2.63 (m, 2H), 2.66-2.81 (m, 2H), 3.21-3.32 (m, 1H), 3.54-3.63 (m, 1H), 3.82-3.89 (m, 1H), 3.92-4.00 (m, 1H), 5.05 (s, 2H), 6.70 (dd, J=8.72, 2.40 Hz, 1H), 6.96 (d, J=2.27 Hz, 1H), 7.03 (d, J=8.72 Hz, 1H), 7.49 (d, 1H), 7.57 (d, J=9.35 Hz, 1H), 7.64 (d, J=1.14 Hz, 1H), 8.95 (bs, 1H).

reactant | tert-Butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-ethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.012 mmol, 6.6 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)CC)C=C1)C(F)(F)F | C32H38F3NO3
reactant | 2-amino-3-mercaptopropanoic acid | 0.012 mmol, 1.476 mg | NC(C(=O)O)CS | C3H7NO2S
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-ethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 0.8 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)O)CC)C=C1)C(F)(F)F | C28H30F3NO3
